US04209621
2'-Chloro-3-dimethylaminoacrylophenone
A mixture of 25 g. of o-chloroacetophenone and 25 ml. of dimethylformamide dimethylacetal is refluxed for 16 hours. Evaporation gives a thick red-brown oil which is dissolved in methylene chloride and this solution passed through a hydrous magnesium silicate column. Evaporation of solvent gives an oil which is then purified by bulb to bulb distillation.

reactant | o-chloroacetophenone | ClC1=C(C=CC=C1)C(C)=O | C8H7ClO
reactant | dimethylformamide dimethylacetal | COC(N(C)C)OC | C5H13NO2
reactant | magnesium silicate | [Si]([O-])([O-])([O-])[O-].[Mg+2].[Mg+2]
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 2'-Chloro-3-dimethylaminoacrylophenone | ClC1=C(C=CC=C1)C(C=CN(C)C)=O | C11H12ClNO
